US09446034B2
1a) 2-[(2,5-Dichloro-4-pyridinyl)amino]-N-methylbenzamide
A 150-mL sealed tube was charged with 2,5-dichloro-4-iodopyridine (3.5 g, 12.78 mmol), 2-amino-N-methylbenzamide (1.919 g, 12.78 mmol) and tripotassium phosphate (8.14 g, 38.3 mmol) in 1,4-dioxane (100 mL). The reaction mixture was degassed with nitrogen for 10 min. Bis(2-diphenylphosphinophenyl)ether (DPEPhos, 0.688 g, 1.278 mmol) and Pd(OAc)2 (0.115 g, 0.511 mmol) were added and the reaction mixture was heated in a 120° C. oil bath over night. The reaction mixture was filtered through celite, which was washed with dioxane. The solvent was evaporated to dryness and the solid was washed with EtOH (10 mL×3) to give 2.14 g (56%) of product as an off white solid.

reactant | 2,5-dichloro-4-iodopyridine | 12.78 mmol, 3.5 g | ClC1=NC=C(C(=C1)I)Cl | C5H2Cl2IN
reactant | 2-amino-N-methylbenzamide | 12.78 mmol, 1.919 g | NC1=C(C(=O)NC)C=CC=C1 | C8H10N2O
reactant | tripotassium phosphate | 38.3 mmol, 8.14 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Bis(2-diphenylphosphinophenyl)ether | 1.278 mmol, 0.688 g | C1(=CC=CC=C1)P(C1=C(C=CC=C1)OC1=C(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H28OP2
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.511 mmol, 0.115 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-[(2,5-Dichloro-4-pyridinyl)amino]-N-methylbenzamide | 2.14 g, 56% | ClC1=NC=C(C(=C1)NC1=C(C(=O)NC)C=CC=C1)Cl | C13H11Cl2N3O
